US08283353B2
4-{trans-4-[(4-methoxyphenyl)carbonyl]cyclohexyl}-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one
A mixture of hydroxylammonium chloride (0.88 g), sodium hydrogen carbonate (1.4 g) and dimethyl sulfoxide (10 mL) was stirred at 40° C. for 30 min, 4′-[(4-{trans-4-[(4-methoxyphenyl)carbonyl]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile (0.5 g) was added, and the mixture was stirred at 90° C. for 16 hr. The reaction mixture was diluted with ethyl acetate, washed with water and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue obtained by silica gel column chromatography was dissolved in tetrahydrofuran (10 mL). N,N′-Carbonyldiimidazole (0.16 g) and then 1,8-diazabicyclo[5.4.0]undec-7-ene (0.14 mL) were added, and the mixture was stirred at room temperature for 2 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated aqueous potassium hydrogensulfate solution and then with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. 25% Sulfuric acid (5 mL) and ethanol (15 mL) were added to the obtained residue, and the mixture was stirred at 100° C. for 16 hr. The precipitated solid was collected by filtration to give the title compound as a colorless amorphous solid (0.24 g, 44%).

reactant | hydroxylammonium chloride | 0.88 g | [Cl-].O[NH3+]
reactant | sodium hydrogen carbonate | 1.4 g | C(O)([O-])=O.[Na+]
reactant | 4′-[(4-{trans-4-[(4-methoxyphenyl)carbonyl]cyclohexyl}-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl)methyl]biphenyl-2-carbonitrile | 0.5 g | COC1=CC=C(C=C1)C(=O)[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2 | C36H35N5O3
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 0.14 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
product | 4-{trans-4-[(4-methoxyphenyl)carbonyl]cyclohexyl}-6-{[2′-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)biphenyl-4-yl]methyl}-7-propyl[1,2,4]triazolo[1,5-a]pyrimidin-5(4H)-one | 0.24 g, 44% | COC1=CC=C(C=C1)C(=O)[C@@H]1CC[C@H](CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NOC(N1)=O)CCC)N=CN2 | C37H36N6O5
